US03985789
N-Phenylcarbamic acid-2-(piperidinomethyl)-4,6-dimethylphenyl-ester
29.75 g (0.25 mol) of phenylisocyanate are introduced dropwise at 0° to 5°C into a solution of 54.75g (0.25 mol) of 2-(piperidinomethyl)-4,6-dimethylphenol in 80 ml of anhydrous benzene. The reaction mixture is stirred at room temperature for 4 hours. The precipitated carbamic acid ester is suction filtered and washed with petroleum ether (b.p. 30°-50°C).

reactant | phenylisocyanate | 0.25 mol, 29.75 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-(piperidinomethyl)-4,6-dimethylphenol | 0.25 mol, 54.75g | N1(CCCCC1)CC1=C(C(=CC(=C1)C)C)O | C14H21NO
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | N-Phenylcarbamic acid-2-(piperidinomethyl)-4,6-dimethylphenyl-ester | N1(CCCCC1)CC1=C(C(=CC(=C1)C)C)OC(NC1=CC=CC=C1)=O | C21H26N2O2
